US05273975
A mixture of N-acetyl-N-(2-methoxy-6-methylphenyl)acetamide (25.0 g, 0.11 mol), N-bromosuccinimide (20.1 g, 0.11 mol), and benzoyl peroxide (4.5 g, 0.019 mol) in carbon tetrachloride (300 mL) was stirred under reflux for 3 hours. The solution was cooled, filtered, and evaporated, and the residual solid was crystallized from ethyl acetate:hexane to give 21.0 g of N-acetyl-N-(2-(bromomethyl)-6-methoxyphenyl)acetamide, 95% pure by GC analysis.

reactant | N-acetyl-N-(2-methoxy-6-methylphenyl)acetamide | 0.11 mol, 25.0 g | C(C)(=O)N(C(C)=O)C1=C(C=CC=C1C)OC | C12H15NO3
reactant | N-bromosuccinimide | 0.11 mol, 20.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.019 mol, 4.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-acetyl-N-(2-(bromomethyl)-6-methoxyphenyl)acetamide | 21.0 g | C(C)(=O)N(C(C)=O)C1=C(C=CC=C1OC)CBr | C12H14BrNO3
